US04959361
A mixture of 0.435 g (1 mmol) of rac-6-(2-fluorophenyl)-4-hydroxy-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine, 3 ml of thionyl chloride and 20 ml of methylene chloride was stirred at room temperature for 2 hours. After evaporation under reduced pressure, the residue was dissolved in 20 ml of methanol and the solution was :reated with 3 ml of triethylamine. After heating on the steam bath for 5 minutes, the mixture was evaporated to dryness and the residue was partitioned between methylene chloride and aqueous sodium bicarbonate solution. The organic layer was dried and evaporated and the residue was crystallized from ethyl acetate to yield colorless crystals of rac-6-(2-fluorophenyl)-8-iodo-4-methoxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine with m.p. 240°-242°. The analytical sample was recrystallized from methanol/ethyl acetate and had m.p. 243°-244°.

reactant | rac-6-(2-fluorophenyl)-4-hydroxy-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine | 1 mmol, 0.435 g | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)I)C(=NN2)C)O | C17H12FIN4O
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | rac-6-(2-fluorophenyl)-8-iodo-4-methoxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)I)C(=NN2)C)OC | C18H14FIN4O
